US06825354B2
Starting from a mixture of 2{[4-(2-butynyloxy)phenyl]sulfanyl}-N-hydroxy-2-[4-(2-thienyl)phenyl]acetamide and 2-{[4-(2-butynyloxy)phenyl]sulfinyl}-N-hydroxy-2-[4-(2-thienyl)phenyl]ethanamide (410 mg, 0.96 mmol), and following the procedure as outlined in Example 75, 110 mg of 2-{[4-(2-butynyloxy)phenyl]sulfonyl}-N-hydroxy-2-[4-(2-thienyl)phenyl]acetamide was isolated as a gray solid. mp: 175° C.; Yield: 26%; MS: 442.2 (M+W)+; 1H NMR (300 MHz, DMSO-d6): δ 1.83 (t, 3H), 4.85 (d, J=2.01 Hz, 2H), 5.04 (s, 1H), 7.11 (m, 4H), 7.39 (d, 7.49-7.63 (band, 5H), 9.30 (s, 1H), 10.9 (s, 1H).

reactant | 2{[4-(2-butynyloxy)phenyl]sulfanyl}-N-hydroxy-2-[4-(2-thienyl)phenyl]acetamide | C(C#CC)OC1=CC=C(C=C1)SC(C(=O)NO)C1=CC=C(C=C1)C=1SC=CC1 | C22H19NO3S2
reactant | 2-{[4-(2-butynyloxy)phenyl]sulfinyl}-N-hydroxy-2-[4-(2-thienyl)phenyl]ethanamide | 0.96 mmol, 410 mg | C(C#CC)OC1=CC=C(C=C1)S(=O)C(C(=O)NO)C1=CC=C(C=C1)C=1SC=CC1 | C22H19NO4S2
product | 2-{[4-(2-butynyloxy)phenyl]sulfonyl}-N-hydroxy-2-[4-(2-thienyl)phenyl]acetamide | 110 mg, Yield: 26% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C(C(=O)NO)C1=CC=C(C=C1)C=1SC=CC1 | C22H19NO5S2
